US04125726
8-Chloro-6-(2-fluorophenyl)-1,2-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-1-one
A mixture of 0.386 g (1 mmole) of 8-chloro-1,2-dihydro-6-(2-fluorophenyl)-1-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylic acid, methyl ester, 10 ml of methanol, 1 ml of water and 0.225 g (4 mmole) of potassium hydroxide was heated to reflux for 31/2 hours under an atmosphere of nitrogen. The solvent was evaporated and the residue was acidified with acetic acid and extracted with methylene chloride. The extracts were dried and evaporated and the residue was heated in mineral oil up to 230° for 5 min. The reaction mixture was partitioned between 1N hydrochloric acid and methylene chloride/hexane. The acid extract was made alkaline with sodium carbonate solution and extracted with methylene chloride. The residue obtained after evaporation of the dried extracts was chromatographed over 10 g of silica gel using methylene chloride/ethyl acetate 1:2. Crystallization of the combined clean fractions from ethyl acetate/hexane yielded colorless crystals with mp 247°-250°. Uv λ max 212 mμ (ε=42250) sh 262 (10000) ir (KBr) 1695 cm-1 (CO) 3150 (NH). Nmr (CDCl3) 4.18 ppm (d, 1) and 4.88 (d, 1) (AB-system, J=12.5 Hz, C4 -H) 6.28 (d, 1, J=2 Hz, C3 -H) 6.9-7.7 (m, 5, aromatic H) 8.13 (d, 1, J=8.5 Hz, C10 -H) 10.46 (broad s, 1, NH).

reactant | 8-chloro-1,2-dihydro-6-(2-fluorophenyl)-1-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylic acid, methyl ester | 1 mmole, 0.386 g | ClC=1C=CC2=C(C(=NCC=3N2C(NC3C(=O)OC)=O)C3=C(C=CC=C3)F)C1 | C19H13ClFN3O3
reactant | methanol | 10 ml | CO | CH4O
reactant | potassium hydroxide | 4 mmole, 0.225 g | [OH-].[K+]
solvent | water | 1 ml | O | H2O
product | 8-Chloro-6-(2-fluorophenyl)-1,2-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-1-one | ClC=1C=CC2=C(C(=NCC=3N2C(NC3)=O)C3=C(C=CC=C3)F)C1 | C17H11ClFN3O
